US04137273
A mixture of 11.2 g. of diethyl carbomethoxymethylphosphonate in 100 ml. of dimethylformamide is treated with 2.4 g. of sodium hydride. The mixture is stirred until the evolution of gas ceases and then 10 g. of 7-methyl-6-nonen-2-one is added slowly with stirring, maintaining temperature below 30°. The mixture is stirred for about one hour, then diluted with water and then extracted with ether. The ethereal phase is washed with water, dried over sodium sulfate and evaporated under reduced pressure to yield methyl 3,8-dimethyldeca-2,7-dienoate as a mixture of isomers (trans,cis; trans,trans; cis,cis and cis,trans) which are separated by chromatography.

reactant | diethyl carbomethoxymethylphosphonate | C(=O)(OC)CP(OCC)(OCC)=O | C7H15O5P
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 7-methyl-6-nonen-2-one | CC(=CCCCC(C)=O)CC | C10H18O
solvent | water | O | H2O
product | methyl 3,8-dimethyldeca-2,7-dienoate | CC(=CC(=O)OC)CCCC=C(CC)C | C13H22O2
